US06906193B2
N-[6-bromo-2-(3-fluorophenyl)-4-quinolinyl]-N,N-dimethylamine:
6-Bromo-4-chloro-2-(3-fluorophenyl)-quinoline (20 g, 59.4 mmoles) was placed in a 500 mL three-neck round-bottom flask equipped with magnetic stirrer, nitrogen inlet, gas outlet, condenser and heating bath and dissolved in 150 mL of N-methylpyrrolidinone. 250 mL of a 40% aq. solution of dimethylamine was added with stirring. The mixture was warmed to 60° C. for 48 hrs. At the end of this time the mixture was cooled, added to 3 L of water in a 4 L Erlenmeyer flask and the mixture stirred until solids formed. The solids were collected by vacuum filtration and dried in a vacuum oven. The product was recrystallised from ethanol in a −20° C. freezer to give 19.6 g (95%) yield of the desired product.

reactant | 6-Bromo-4-chloro-2-(3-fluorophenyl)-quinoline | 59.4 mmoles, 20 g | BrC=1C=C2C(=CC(=NC2=CC1)C1=CC(=CC=C1)F)Cl | C15H8BrClFN
reactant | dimethylamine | CNC | C2H7N
reactant | water | 3 L | O | H2O
solvent | N-methylpyrrolidinone | 150 mL | CN1C(CCC1)=O | C5H9NO
product | N-[6-bromo-2-(3-fluorophenyl)-4-quinolinyl]-N,N-dimethylamine | BrC=1C=C2C(=CC(=NC2=CC1)C1=CC(=CC=C1)F)N(C)C | C17H14BrFN2
